* /Users/league/Desktop/Level-1/AudioAmplifier lab.asc
Vbias N001 0 9V
R1 N001 Vmic 2.2K
V1 Vmic 0 SINE(8.6 300m 1K)
C2 Vs1 Vmic .0000001
.tran 0 10ms 5ms 10us
.backanno
.end
