*
V1 VBatt 0 9
R1 VBatt Vd1 333.33
D1 Vd1 Vd2 WP710A10QBC-2
D2 Vd2 0 WP710A10QBC-2
.model D D
.lib /Users/league/Library/Application Support/LTspice/lib/cmp/standard.dio
.lib WP710A10QBC.SP3
.tran 0 1ms 0 1us startup
.backanno
.end
